US07479558B2
4-Chloro-2-methylsulfinyl-8-(2,6-difluoro-phenyl)-8H-pyrido[2,3-d]pyrimidin-7-one
A solution of 4-Chloro-2-methylsulfanyl-8-(2,6-difluoro-phenyl)-8H-pyrido[2,3-d]pyrimidin-7-one (1.0 g, 2.9 mmol) in dichloromethane (50 mL) was mixed with m-CPBA (0.69 g, 4.4 mmol). The resultant mixture was stirred at room temperature for 10 minutes and concentrated under vacou. Flash chromatography (EtOAc/Hexane, 3:1) then provided the title compound (0.91 g, 87%): MS (ES) m/z 356 (M+H)+; 1H-NMR(CDCl3) δ 2.85 (s, 3H), 7.03 (d, J=9.6 Hz, 1H), 7.15 (m, 2H) 7.53 (m, 1H), 8.18 (d, J=9.6 Hz, 1H).

reactant | 4-Chloro-2-methylsulfanyl-8-(2,6-difluoro-phenyl)-8H-pyrido[2,3-d]pyrimidin-7-one | 2.9 mmol, 1.0 g | ClC=1C2=C(N=C(N1)SC)N(C(C=C2)=O)C2=C(C=CC=C2F)F | C14H8ClF2N3OS
reactant | m-CPBA | 4.4 mmol, 0.69 g | C1=CC(=CC(=C1)Cl)C(=O)OO | C7H5ClO3
solvent | dichloromethane | 50 mL | ClCCl | CH2Cl2
product | 4-Chloro-2-methylsulfinyl-8-(2,6-difluoro-phenyl)-8H-pyrido[2,3-d]pyrimidin-7-one | 0.91 g, 87% | ClC=1C2=C(N=C(N1)S(=O)C)N(C(C=C2)=O)C2=C(C=CC=C2F)F | C14H8ClF2N3O2S
